US03956260
1. BOC-Val-Leu-OBzl
19.9 g (92 mmols) of BOC-Val-OH are dissolved in 200 ml of freshly distilled dimethylformamide, while heating. After cooling to 0°C, 25.9 ml of absolute triethylamine are added and the solution cooled to -10°C before 8.64 ml of chlorocarbonic acid ethyl ester are added. After 10 minutes, a solution of 23.2 g (90 mmols) of H-Leu-OBzl, HCL in 90 ml of dimethylformamide is added at -10°C. The mixture is allowed to stand at -10°C for 30 minutes, at 0°C for 3 hours, and at 20°C for 16 hours. Undissolved matter is then filtered off and the filtrate concentrated to dryness under a high vacuum. The residue is dissolved in ethyl acetate and the solution washed with dilute citric acid solution, water, sodium bicarbonate solution, and water, dried with sodium sulfate, and evaporated. On addition of petroleum ether the product crystallizes overnight. Melting point 88.5° - 89.5°C; [α]D20 -22° (c = 2 in dimethylformamide); Rf2 = 0.73.

reactant | BOC-Val-OH | 92 mmols, 19.9 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | triethylamine | 25.9 ml | C(C)N(CC)CC | C6H15N
reactant | chlorocarbonic acid ethyl ester | 8.64 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | H-Leu-OBzl | 90 mmols, 23.2 g | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | BOC-Val-Leu-OBzl | N([C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H36N2O5
